US06479536B1
4-Chloro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide
By using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine and 4-chlorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 71%. Melting point: 201-203° C. (Ethyl acetate-hexane)

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Chloro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide | Yield: 71% | ClC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C29H32ClNO2
